US07902238B2
To a stirred solution of (S)-4-[(6-chloro-pyridin-2-ylamino)-methyl]-2,2-dimethyl-oxazo-lidine-3-carboxylic acid tert-butyl ester (528 mg) at r.t. in 1,2-dichloroethane (20 ml) under an argon atmosphere were added molecular sieves 4 A (˜2 g) and acetaldehyde (044 ml). After 30 min stirring at r.t., sodium triacetoxyborohydride (1.02 g) was added, followed by acetic acid (0.13 ml). The mixture was stirred for at r.t. over night, then diluted with CH2Cl2 and washed with sat. aq. Na2CO3. The biphasic mixture was filtered. The aqueous phase of the filtrate was back extracted with CH2Cl2. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (SiO2; gradient:cyclohexane->cyclohexane/EtOAc 85:15) to give (S)-4-{[(6-chloro-pyridin-2-yl)-ethyl-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (244 mg, 43%) as viscous yellow oil. MS (ISP): 370.3 ([M+H]+)

reactant | (S)-4-[(6-chloro-pyridin-2-ylamino)-methyl]-2,2-dimethyl-oxazo-lidine-3-carboxylic acid tert-butyl ester | 528 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CNC1=NC(=CC=C1)Cl)(C)C | C16H24ClN3O3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.02 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.13 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-4-{[(6-chloro-pyridin-2-yl)-ethyl-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 244 mg, 43% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN(CC)C1=NC(=CC=C1)Cl)(C)C | C18H28ClN3O3
